US06774138B2
Synthesis of 2-{[(1R)-1,7,7-Trimethylbicyclo[2.2.1]hept-2-en-2-yl]ethynyl}pyridine
Reactants: 2-ethynylpyridine (6.0 mmol, 618 mg), (1R)-(+)-camphor (6.0 mmol, 912 mg); yields 2-{[(1R)-1,7,7-timethylbicyclo[2.2.1]hept-2-en-2-yl]ethynyl}pyridine as a transparent yellow oil (125 mg, 9% overall yield). 1H NMR (CDCl3, 300 MHz) δ 8.57 (m, 1H), 7.64 (m, 1H), 7.43 (m, 1H), 7.17 (m, 1H), 6.49 (d, J=3 Hz, 1H), 2.41 (t, J=3 Hz, 1H), 1.92 (br m, 1H), 1.65 (m, 1H), 1.18 (m, 1H), 1.17 (s, 3H), 1.09 (br m, 1H), 0.84 (s, 3H), 0.82 (s, 3H). MS (EI ionization) 237 (M+).

reactant | 2-ethynylpyridine | 6.0 mmol, 618 mg | C(#C)C1=NC=CC=C1 | C7H5N
reactant | (1R)-(+)-camphor | 6.0 mmol, 912 mg | [C@]12(C(=O)CC(CC1)C2(C)C)C | C10H16O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-{[(1R)-1,7,7-Trimethylbicyclo[2.2.1]hept-2-en-2-yl]ethynyl}pyridine | C[C@@]12C(=CC(CC1)C2(C)C)C#CC2=NC=CC=C2 | C17H19N
